US08084623B2
To a stirred solution of 5-[(1-tert-butoxycarbonyl-2-propyl-pyrrolidin-2-yl)-hydroxy-methyl]-indole-1-carboxylic acid tert-butyl ester (0.460 g, 1.00 mmol) in DCM (10 mL) at 0° C. under nitrogen was added DMP (0.652 g, 1.54 mmol) in a single portion. The reaction mixture warmed to ambient temperature and stirred for 90 minutes, then diluted with DCM, washed with a 1:1 mixture of 10% aqueous Na2S2O5 and NaHCO3, followed by brine, then dried (MgSO4), filtered and concentrated in vacuo to a yellow oil. Purification by chromatography (silica, 0 to 80% EtOAc in hexanes) gave 5-(1-tert-butoxycarbonyl-2-propyl-pyrrolidine-2-carbonyl)-indole-1-carboxylic acid tert-butyl ester (0.132 g, 0.289 mmol, 29%) as a yellow oil.

reactant | 5-[(1-tert-butoxycarbonyl-2-propyl-pyrrolidin-2-yl)-hydroxy-methyl]-indole-1-carboxylic acid tert-butyl ester | 1.00 mmol, 0.460 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C(O)C1(N(CCC1)C(=O)OC(C)(C)C)CCC | C26H38N2O5
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(1-tert-butoxycarbonyl-2-propyl-pyrrolidine-2-carbonyl)-indole-1-carboxylic acid tert-butyl ester | 0.289 mmol, 0.132 g, 29% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C(=O)C1(N(CCC1)C(=O)OC(C)(C)C)CCC | C26H36N2O5
